US09063126B2
2-chloro-5-{[1-(4-fluorophenyl)hydrazino]methyl}pyridine
A mixture of (4-fluorophenyl)hydrazine hydrochloride (2.52 g, 20 mmol; Aldrich) and 2-chloro-5-(chloromethyl)pyridine (3.24 g, 20.00 mmol; Aldrich) in ethanol (120 mL) was treated with triethylamine (9.76 mL, 70.0 mmol; Aldrich), and the mixture was heated at 80° C. with stirring for 16 hours. The solvent was removed and the residue was purified by flash chromatography (silica gel, 10:1 CH2Cl2—CH3OH) to afford the title compound: 1H NMR (300 MHz, methanol-d4) δ ppm 4.53 (s, 2H), 6.93-6.99 (m, 2H), 7.02-7.10 (m, 2H), 7.40 (d, J=8 Hz, 1H), 7.77 (dd, J=8, 3 Hz, 1H), 8.30 (d, J=3 Hz, 1H); MS (DCI/NH3) m/z 252 (M+H)+.

reactant | (4-fluorophenyl)hydrazine hydrochloride | 20 mmol, 2.52 g | Cl.FC1=CC=C(C=C1)NN
reactant | 2-chloro-5-(chloromethyl)pyridine | 20.00 mmol, 3.24 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | triethylamine | 70.0 mmol, 9.76 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2-chloro-5-{[1-(4-fluorophenyl)hydrazino]methyl}pyridine | ClC1=NC=C(C=C1)CN(N)C1=CC=C(C=C1)F | C12H11ClFN3
